US08871956B2
Patent application WO0248132 describes a method for the synthesis of dronedarone using 2-n-butyl-5-nitro-benzofuran which is reduced, under pressure, with hydrogen in the presence of platinum oxide as catalyst in order to form 2-n-butyl-5-amino-benzofuran. This benzofuran derivative is then subjected to the action of methanesulfonyl chloride, which gives 2-n-butyl-5-methanesulfonamido-benzofuran which is treated with 4-[3-(di-n-butylamino)-propoxy]-benzoyl chloride to give dronedarone.

reactant | dronedarone | CCCCC1=C(C=2C=C(C=CC2O1)NS(=O)(=O)C)C(=O)C=3C=CC(=CC3)OCCCN(CCCC)CCCC | C31H44N2O5S
reactant | 2-n-butyl-5-nitro-benzofuran | C(CCC)C=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C12H13NO3
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
product | 2-n-butyl-5-amino-benzofuran | C(CCC)C=1OC2=C(C1)C=C(C=C2)N | C12H15NO
